US04005089
Step C: 8β-Aminomethyl-1,6-dimethyl-ergoline
A mixture of 8 ml. of dry ethanol and 10 ml. of dry ether is added dropwise, within 20 minutes to the stirred solution of 1.9 g. of metallic sodium in 300 ml. of liquid ammonia. Upon this procedure the initially deep blue solution turns gradually colorless. Thereafter 2.53 g. of dried 8β-aminomethyl-6-methyl-ergoline, prepared as described in Step B above, are added, the mixture is stirred until complete dissolution occurs (for 5 minutes), and then a solution of 6.6 g. of methyl iodide in 8 ml. of dry ether is added dropwise, within 5 minutes to the mixture at -40° C. The mixture is stirred at the same temperature for an additional 30 minutes, thereafter it is warmed cautiously and ammonia is removed in vacuo. The residue is dissolved in a mixture of 100 ml. of isopropanol and 400 ml. of chloroform, 150 ml. of water are added to the solution, and the pH of the aqueous phase is adjusted to 8 with acetic acid. The mixture is shaken, the organic phase is separated, and the aqueous phase is extracted with 3×100 ml. of a 1:4 mixture of isopropanol and chloroform. The organic phases are combined, dried over sodium sulfate, filtered and evaporated. The residue is subjected to chromatography using a column filled with 40 g. of silica gel in order to remove the impurities optionally present. A 30:2:11 mixture of chloroform, water and methanol is used as eluting agent.

reactant | sodium | [Na] | Na
reactant | ammonia | N | H3N
reactant | 8β-aminomethyl-6-methyl-ergoline | NC[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C | C16H21N3
reactant | methyl iodide | CI | CH3I
solvent | ether | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | 8β-Aminomethyl-1,6-dimethyl-ergoline | NC[C@H]1CN([C@@H]2CC3=CN(C4=CC=CC([C@H]2C1)=C34)C)C | C17H23N3
